US09315475B2
Step 1: Preparation of tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-[(1Z)-3-phenylprop-1-en-1-yl]morpholine-4-carboxylate
To a cold (0° C.) suspension of phosphonium salt triphenyl(2-phenylethyl)phosphonium iodide (2.5 eq) in THF (0.1M) was added dropwise a solution of 1M lithium bis(trimethylsilyl)amide (3 eq) in THF. The reaction mixture was stirred at that temperature for 30 min then cooled to −78° C. A solution of tert-butyl (2R,5S)-5-formyl-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq) in THF (1M) was added dropwise. The reaction mixture was stirred at that temperature for 30 min then allowed to warm to rt for 30 min, quenched with water and the organic layer was extracted twice with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by automated silica gel flash chromatography system eluted with a gradient 0% to 70% of EtOAc/Hex to afford the desired compound.

reactant | phosphonium | 2.5 eq | [PH4+]
reactant | lithium bis(trimethylsilyl)amide | 1M, 3 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl (2R,5S)-5-formyl-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq | C(=O)[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H41N3O7
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-[(1Z)-3-phenylprop-1-en-1-yl]morpholine-4-carboxylate | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)\C=C/CC1=CC=CC=C1)C(=O)OC(C)(C)C | C43H49N3O6
